US07763612B2
To a stirring solution of (2S,3S,5R)-2-(3,5-difluorophenyl)-2-hydroxy-3,5-dimethylmorpholine (2.5 g, 10.28 mmol) in dichloromethane (50 mL) at room temperature under nitrogen, was added potassium carbonate (1.42 gm, 10.28 mmol). The mixture was cooled to 5° C. with a wet ice bath, and chloromethyl chloroformate (0.915 mL, 10.28 mmol) in dichloromethane (10 mL) was added dropwise. The mixture was allowed to warn to room temperature slowly and stirred over night. TLC analysis (1:1 heptane:ethyl acetate) indicated that the starting material was consumed and a new less polar spot had formed. Water was added to the mixture and then it was extracted with dichloromethane (3×). The organic layers were combined and dried over magnesium sulfate, filtered and the solvent was removed to afford a crude weight of 2.8 grams of (2S,3S,5R)-2-(3,5-difluorophenyl)-2-hydroxy-3,5-dimethylmorpholine-4-carboxylic acid chloromethyl ester (1410) as an opaque tar.

reactant | (2S,3S,5R)-2-(3,5-difluorophenyl)-2-hydroxy-3,5-dimethylmorpholine | 10.28 mmol, 2.5 g | FC=1C=C(C=C(C1)F)[C@]1([C@@H](N[C@@H](CO1)C)C)O | C12H15F2NO2
reactant | potassium carbonate | 10.28 mmol, 1.42 gm | C([O-])([O-])=O.[K+].[K+]
reactant | chloromethyl chloroformate | 10.28 mmol, 0.915 mL | ClC(=O)OCCl | C2H2Cl2O2
reactant | heptane | CCCCCCC | C7H16
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | Water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2S,3S,5R)-2-(3,5-difluorophenyl)-2-hydroxy-3,5-dimethylmorpholine-4-carboxylic acid chloromethyl ester | 2.8 grams | ClCOC(=O)N1[C@H]([C@](OC[C@H]1C)(O)C1=CC(=CC(=C1)F)F)C | C14H16ClF2NO4
